US07754745B2
Step 2: 5-[(S)-3-(2-Bromo-5-fluoro-phenoxy)-pyrrolidin-1-yl]-[1,3,4]thiadiazol-2-ylamine
A mixture of 5-bromo-1,3,4-thiadiazol-2-amine (1 g, 5.6 mmol), (3S)-3-(2-bromo-5-fluorophenoxy)pyrrolidine (1.6 g, 6.1 mmol) and sodium carbonate (1.2 g, 11 mmol) in EtOH (11 mL) was degassed with nitrogen for 5 mins. The mixture was then heated at 90° C. for 3 h. The mixture was then cooled to room temperature and filtered. The solvent was evaporated and diluted with water (50 mL). The solid precipitate was filtered and washed with water followed by Et2O to afford the title product.

reactant | 5-bromo-1,3,4-thiadiazol-2-amine | 5.6 mmol, 1 g | BrC1=NN=C(S1)N | C2H2BrN3S
reactant | (3S)-3-(2-bromo-5-fluorophenoxy)pyrrolidine | 6.1 mmol, 1.6 g | BrC1=C(O[C@@H]2CNCC2)C=C(C=C1)F | C10H11BrFNO
reactant | sodium carbonate | 11 mmol, 1.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOH | 11 mL | CCO | C2H6O
product | 5-[(S)-3-(2-Bromo-5-fluoro-phenoxy)-pyrrolidin-1-yl]-[1,3,4]thiadiazol-2-ylamine | BrC1=C(O[C@@H]2CN(CC2)C2=NN=C(S2)N)C=C(C=C1)F | C12H12BrFN4OS
